### PR TITLE
feat: extend the `whitespace` linter to proof bodies

### PR DESCRIPTION
**Pull request by grunweg**
---

- [x] depends on: #30663
- [x] depends on: #30685
- [x] depends on: #30687
- [x] depends on: #30688
- [x] depends on: #30689
- [x] depends on: #30691
- [x] depends on: #30723
- [x] depends on: #30724
- [x] depends on: #30725
- [x] depends on: leanprover/lean4#11780
- [x] depends on: leanprover/lean4#12006
- [ ] depends on: leanprover/lean4#11686
- [x] depends on: #33705
- [x] depends on: #33706
- [x] depends on: #33716
- [x] depends on: #33234
- [x] depends on: #33342
- [x] depends on: #33708
- [x] depends on: #33758
- [x] depends on: #33759
- [x] depends on: #33789
- [x] depends on: #33815
- [x] depends on: #33816
- [x] depends on: #35909
- [x] depends on: #37993

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
CC #26926 for cross-linking

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 1]
```diff
@@ -653,7 +653,7 @@ private lemma formula2 :
   rw [← formula1 S]
   congrm ?_ + ?_ + ?_
   · have : (S.multiplicity-1)*3+1 = 3*S.multiplicity-2 := by have := S.two_le_multiplicity; lia
-    calc _ = S.X^3 *(S.u₂*S.u₂⁻¹)*(η^3*S.u₁)*(λ^((S.multiplicity-1)*3)*λ) := by push_cast; ring
+    calc _ = S.X^3 *(S.u₂*S.u₂⁻¹)*(η^3*S.u₁)*(λ^((S.multiplicity-1)*3)*λ)  := by push_cast; ring
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/FLT/Three.lean]: This is a strange change. The added space looks wrong, and there are many other places in this line and around it that could use more spaces.

File: Mathlib/Tactic/Linter/Whitespace.lean [hunk 2]
```diff
@@ -132,71 +147,1063 @@ def pushFormatError (fs : Array FormatError) (f : FormatError) : Array FormatErr
...
+    ``Parser.Term.structInstField, -- of the `where` fields: the LHS pps with virtually no spaces.
+    ``Parser.Term.structInst, -- of the `where` fields: the LHS pps with virtually no spaces.
+    `Lean.Parser.Command.grindPattern, -- `grind_pattern A => x, y` prints no space after `,`
+  ]
+  depth := none
+
+def ignoreSpaceAfter : ExcludedSyntaxNodeKind where
+  kinds := #[
+    ``«term¬_»,
+  ]
```
Comment (adomani) [inline Mathlib/Tactic/Linter/Whitespace.lean:315]:
```suggestion
    -- notation for `upShadow`, the pretty-printer prefers `∂⁺ ` over `∂⁺` *always*
    `FinsetFamily.«term∂⁺»,
  ]
```

File: Mathlib/Tactic/Linter/CommandStart.lean [hunk 3]
```diff
@@ -298,45 +1412,222 @@ public def mkWindow (orig : String) (start ctx : Nat) : String :=
...
     return
   -- If a command does not start on the first column, emit a warning.
+  --dbg_trace "lint1"
+  let orig := stx.getSubstring?.getD default
+
+  let stxNoSpaces := stx.eraseLeadTrailSpaces
+  if let some pretty := ← Mathlib.Linter.pretty stxNoSpaces then
+    let pp := pretty.toRawSubstring
+    let (_, corr) ← generateCorrespondence true Std.HashMap.emptyWithCapacity #[] stx pretty.toRawSubstring
+    let (reported, excluded) := corr.partition fun _ {kinds := ks,..} => !totalExclusions.contains ks
```
Comment (adomani) [inline Mathlib/Tactic/Linter/CommandStart.lean]:
```suggestion
    let (reported, excluded) := corr.partition fun _ {kinds := ks,..} =>
      (!totalExclusions.contains ks && !ignoreSpaceAfter.contains ks)
```
With this, the `ignoreSpaceAfter` should actually work and allows to avoid the custom ignoring of `Not`.

File: Mathlib/CategoryTheory/Iso.lean [hunk 4]
```diff
@@ -71,7 +71,7 @@ variable {C : Type u} [Category.{v} C] {X Y Z : C}
 
 namespace Iso
 
-set_option linter.style.commandStart false in -- false positive, calc blocks
+set_option linter.style.commandStart false -- linter does not recognise manual alignment
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Iso.lean]:
```suggestion
set_option linter.style.commandStart false in -- linter does not recognise manual alignment
```

File: Mathlib/Data/Finset/Slice.lean [hunk 5]
```diff
@@ -116,9 +116,16 @@ variable {𝒜 : Finset (Finset α)} {A A₁ A₂ : Finset α} {r r₁ r₂ : 
 /-- The `r`-th slice of a set family is the subset of its elements which have cardinality `r`. -/
 def slice (𝒜 : Finset (Finset α)) (r : ℕ) : Finset (Finset α) := {A ∈ 𝒜 | #A = r}
 
+-- Adding (priority := high) fixes the commandStart linter, but causes failures in dependent files
+-- (e.g. in `Combinatorics/SetFamily/LYM.lean`)
 @[inherit_doc]
 scoped[Finset] infixl:90 " # " => Finset.slice
 
+-- TODO: a bug in the linter causes non-desired outside around Finset.slice; diagnose and fix!
```
Comment (grunweg) [inline Mathlib/Data/Finset/Slice.lean]:
```suggestion
-- TODO: a bug in the linter causes non-desired outside output around Finset.slice;
```

File: Mathlib/Data/Finset/Slice.lean [hunk 6]
```diff
@@ -116,9 +116,16 @@ variable {𝒜 : Finset (Finset α)} {A A₁ A₂ : Finset α} {r r₁ r₂ : 
...
+-- (or disable the linter properly around this construct)
```
Comment (grunweg) [inline Mathlib/Data/Finset/Slice.lean]:
```suggestion
-- diagnose and fix (or disable the linter properly around this construct)!
```

File: Mathlib/Data/Finset/Slice.lean [hunk 7]
```diff
@@ -116,9 +116,16 @@ variable {𝒜 : Finset (Finset α)} {A A₁ A₂ : Finset α} {r r₁ r₂ : 
...
+set_option linter.style.commandStart false
+
```
Comment (grunweg) [inline Mathlib/Data/Finset/Slice.lean:126]:
```suggestion
```

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/NumberTheory/FLT/Three.lean]:
```suggestion
    calc _ = S.X^3 *(S.u₂*S.u₂⁻¹)*(η^3*S.u₁)*(λ^((S.multiplicity-1)*3)*λ) := by push_cast; ring
```

File: Mathlib/Data/Nat/Find.lean [hunk 8]
```diff
@@ -180,7 +180,7 @@ lemma findGreatest_succ (n : ℕ) :
   | n + 1, h => by simp [Nat.findGreatest, h]
 
 @[simp]
-lemma findGreatest_of_not (h : ¬ P (n + 1)) : findGreatest P (n + 1) = findGreatest P n := by
+lemma findGreatest_of_not (h : ¬P (n + 1)) : findGreatest P (n + 1) = findGreatest P n := by
```
Comment (grunweg) [inline Mathlib/Data/Nat/Find.lean]: Revert this

File: Mathlib/Data/Nat/Init.lean [hunk 9]
```diff
@@ -397,7 +397,7 @@ theorem diag_induction (P : ℕ → ℕ → Prop) (ha : ∀ a, P (a + 1) (a + 1)
 
 /-! ### `mod`, `dvd` -/
 
-lemma not_pos_pow_dvd {a n : ℕ} (ha : 1 < a) (hn : 1 < n) : ¬ a ^ n ∣ a :=
+lemma not_pos_pow_dvd {a n : ℕ} (ha : 1 < a) (hn : 1 < n) : ¬a ^ n ∣ a :=
```
Comment (grunweg) [inline Mathlib/Data/Nat/Init.lean]: Revert

File: Mathlib/Data/Nat/Sqrt.lean [hunk 10]
```diff
@@ -96,7 +96,7 @@ private lemma sqrt_isSqrt (n : ℕ) : IsSqrt n (sqrt n) := by
   | 0 => simp [IsSqrt, sqrt]
   | 1 => simp [IsSqrt, sqrt]
   | n + 2 =>
-    have h : ¬ (n + 2) ≤ 1 := by simp
+    have h : ¬(n + 2) ≤ 1 := by simp
```
Comment (grunweg) [inline Mathlib/Data/Nat/Sqrt.lean]: Revert

File: Mathlib/NumberTheory/FLT/Three.lean [hunk 11]
```diff
@@ -662,7 +662,7 @@ private lemma formula2 :
...
```
Comment (grunweg) [inline Mathlib/NumberTheory/FLT/Three.lean]: Revert (and why does the linter not complain anyway?

File: Mathlib/Order/Basic.lean [hunk 12]
```diff
@@ -825,7 +825,7 @@ theorem compare_of_injective_eq_compareOfLessAndEq (a b : α) [LinearOrder β]
   have h := LinearOrder.compare_eq_compareOfLessAndEq (f a) (f b)
   simp only [h, compareOfLessAndEq]
   split_ifs <;> try (first | rfl | contradiction)
-  · have : ¬ f a = f b := by rename_i h; exact inj.ne h
+  · have : ¬f a = f b := by rename_i h; exact inj.ne h
```
Comment (grunweg) [inline Mathlib/Order/Basic.lean]:
```suggestion
  · have : ¬ f a = f b := by rename_i h; exact inj.ne h
```

File: Mathlib/Order/Minimal.lean [hunk 13]
```diff
@@ -75,10 +75,10 @@ alias ⟨Minimal.of_dual, Minimal.dual⟩ := minimal_toDual
 
 alias ⟨Maximal.of_dual, Maximal.dual⟩ := maximal_toDual
 
-@[simp] theorem minimal_false : ¬ Minimal (fun _ ↦ False) x := by
+@[simp] theorem minimal_false : ¬Minimal (fun _ ↦ False) x := by
```
Comment (grunweg) [inline Mathlib/Order/Minimal.lean]: Revert all these changes

File: Mathlib/Order/Monotone/Basic.lean [hunk 14]
```diff
@@ -462,7 +462,7 @@ variable [LinearOrder β] {f : α → β} {s : Set α} {x y : α}
 /-- A function between linear orders which is neither monotone nor antitone makes a dent upright or
 downright. -/
 lemma not_monotone_not_antitone_iff_exists_le_le :
-    ¬ Monotone f ∧ ¬ Antitone f ↔
+    ¬Monotone f ∧ ¬Antitone f ↔
```
Comment (grunweg) [inline Mathlib/Order/Monotone/Basic.lean]:
```suggestion
    ¬ Monotone f ∧ ¬ Antitone f ↔
```

File: Mathlib/Order/Monotone/Basic.lean [hunk 15]
```diff
@@ -492,7 +492,7 @@ lemma not_monotone_not_antitone_iff_exists_le_le :
 /-- A function between linear orders which is neither monotone nor antitone makes a dent upright or
 downright. -/
 lemma not_monotone_not_antitone_iff_exists_lt_lt :
-    ¬ Monotone f ∧ ¬ Antitone f ↔ ∃ a b c, a < b ∧ b < c ∧
+    ¬Monotone f ∧ ¬Antitone f ↔ ∃ a b c, a < b ∧ b < c ∧
```
Comment (grunweg) [inline Mathlib/Order/Monotone/Basic.lean]:
```suggestion
    ¬ Monotone f ∧ ¬ Antitone f ↔ ∃ a b c, a < b ∧ b < c ∧
```

File: Mathlib/Order/RelClasses.lean [hunk 16]
```diff
@@ -105,7 +105,7 @@ theorem IsStrictTotalOrder.swap (r) [IsStrictTotalOrder α r] : IsStrictTotalOrd
 /-- A connected order is one satisfying the condition `a < c → a < b ∨ b < c`.
   This is recognizable as an intuitionistic substitute for `a ≤ b ∨ b ≤ a` on
   the constructive reals, and is also known as negative transitivity,
-  since the contrapositive asserts transitivity of the relation `¬ a < b`. -/
+  since the contrapositive asserts transitivity of the relation `¬a < b`. -/
```
Comment (grunweg) [inline Mathlib/Order/RelClasses.lean]: Revert all these

File: Mathlib/Order/SetIsMax.lean [hunk 17]
```diff
@@ -24,12 +24,12 @@ namespace Set
 
 variable {J : Type u} [Preorder J] {S : Set J} (m : S)
 
-lemma not_isMax_coe (hm : ¬ IsMax m) :
-    ¬ IsMax m.1 :=
+lemma not_isMax_coe (hm : ¬IsMax m) :
+    ¬IsMax m.1 :=
```
Comment (grunweg) [inline Mathlib/Order/SetIsMax.lean]: Revert all these

File: Mathlib/NumberTheory/FLT/Three.lean (hunk 11 above)
Comment (grunweg) [reply Mathlib/NumberTheory/FLT/Three.lean]:
```suggestion
    calc _ = S.X^3 *(S.u₂*S.u₂⁻¹)*(η^3*S.u₁)*(λ^((S.multiplicity-1)*3)*λ) := by push_cast; ring
```

**Comment by SnirBroshi** [comment]
Hey 👋
Can I help somehow? Are you trying to fix false positives first, or to split the whitespace changes into multiple PRs?

File: Mathlib/Tactic/Linter/Whitespace.lean [hunk 18]
```diff
@@ -19,6 +21,14 @@ meta section
...
+Replaces line-breaks with `⏎`.
+It also replaces the slash `/` in `/-` and `-/` with the U+29F8 Big Solidus Unicode Character `⧸`
+so that the output of `#guard_msgs` does not accidentally comment everything that follows it.
+-/
+private def String.norm (s : String) : String :=
+  ((s.replace "\n" "⏎").replace "/-" "⧸-").replace "-/" "-⧸"
+
 namespace Mathlib.Linter
 
 /--
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Linter/Whitespace.lean:37]: I think this docstring needs updating, it seems to talk only about command starts, especially the `example`s

File: Mathlib/Tactic/Linter/Whitespace.lean [hunk 19]
```diff
@@ -51,325 +61,611 @@ public register_option linter.style.commandStart : Bool := {
...
-      let srcWindow := mkWindow orig s.srcNat (ctx + s.length)
-      let expectedWindow := mkWindow st s.fmtPos (ctx + (1))
-      Linter.logLint linter.style.whitespace (.ofRange rg)
-        m!"{s.msg} in the source\n\n\
-          This part of the code\n  '{srcWindow}'\n\
-          should be written as\n  '{expectedWindow}'\n"
-      Linter.logLintIf linter.style.whitespace.verbose (.ofRange rg)
-        m!"Formatted string:\n{fmt}\nOriginal string:\n{origSubstring}"
+  -- If a command does not start on the first column, emit a warning.
+  let orig := stx.getSubstring?.getD default
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Linter/Whitespace.lean:550]: This comment looks unrelated to the code that follows, it used to be next to `if colStart ≠ 0 then`

File: Mathlib/Tactic/Linter/Whitespace.lean [hunk 20]
```diff
@@ -51,325 +61,611 @@ public register_option linter.style.commandStart : Bool := {
...
+  let stx := (sanitizeSyntax stx).run' { options := opts }
+  -- the next line starts with `parenthesizeCategory cat stx` in `Lean.PrettyPrinter.ppCategory`
+  stx >>= PrettyPrinter.formatCategory cat
+
+/-- Replaces each consecutive run of whitespace in the input `s` with a single space. -/
+def reduceWhitespace (s : String) : String :=
+  " ".intercalate <| (s.splitToList (·.isWhitespace)).filter (!·.isEmpty)
+
+/-- Converts the input syntax into a string using the pretty-printer and then collapsing
+consecuting whitespace into a single space. -/
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Linter/Whitespace.lean]:
```suggestion
/-- Converts the input syntax into a string using the pretty-printer and then collapsing
consecutive whitespace into a single space. -/
```

File: Mathlib/Tactic/Linter/Whitespace.lean [hunk 21]
```diff
@@ -51,325 +61,611 @@ public register_option linter.style.commandStart : Bool := {
...
+      corr.alter ((info.getTrailing?.getD default).startPos) fun _ =>
+        PPref.mk ppEndPos (k.push (.str `ident rawVal.toString)))
+  | corr, k, .atom info val, str => do
+    let ppEndPos ← atomOrIdentEndPos verbose? (k.push (.str `atom val)) val.toRawSubstring str
+    pure (
+      {str with startPos := ppEndPos},
+      -- Is `getD default` a good idea?  It resolves some panics, but there may be a better default
+      corr.alter ((info.getTrailing?.getD default).startPos) fun _ =>
+        PPref.mk ppEndPos (k.push (.str `atom val)))
+  | corr, k, _stx@(.node _info kind args), str => do
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Linter/Whitespace.lean]:
```suggestion
  | corr, k, .node _info kind args, str => do
```

File: Mathlib/Tactic/Linter/Whitespace.lean [hunk 22]
```diff
@@ -51,325 +61,611 @@ public register_option linter.style.commandStart : Bool := {
...
+  | "₄" => "4"
+  | "₅" => "5"
+  | "₆" => "6"
+  | "₇" => "7"
+  | "₈" => "8"
+  | "₉" => "9"
+  | "₊" => "+"
+  | "ₙ" => "n"
+  | "ₘ" => "m"
+  | s => s
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Linter/Whitespace.lean]: Can you use this mapping? I think it's more complete
https://github.com/leanprover-community/mathlib4/blob/b8e3880e7aebc634d9d78b14d1fc00a25b299ea0/Mathlib/Util/Superscript.lean#L66-L69

File: Mathlib/Tactic/Linter/Whitespace.lean [hunk 23]
```diff
@@ -51,325 +61,611 @@ public register_option linter.style.commandStart : Bool := {
...
+  | "⁴" => "4"
+  | "⁵" => "5"
+  | "⁶" => "6"
+  | "⁷" => "7"
+  | "⁸" => "8"
+  | "⁹" => "9"
+  | "⁺" => "+"
+  | "ⁿ" => "n"
+  | "ᵐ" => "m"
+  | s => s
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Linter/Whitespace.lean]: https://github.com/leanprover-community/mathlib4/blob/b8e3880e7aebc634d9d78b14d1fc00a25b299ea0/Mathlib/Util/Superscript.lean#L61-L64

File: Mathlib/Tactic/Linter/Whitespace.lean [hunk 24]
```diff
@@ -51,325 +61,611 @@ public register_option linter.style.commandStart : Bool := {
...
-def getUnlintedRanges (a : Array SyntaxNodeKind) :
-    Std.HashSet Lean.Syntax.Range → Syntax → Std.HashSet Lean.Syntax.Range
-  | curr, s@(.node _ kind args) =>
-    let new := args.foldl (init := curr) (·.union <| getUnlintedRanges a curr ·)
-    if a.contains kind then
-      new.insert (s.getRange?.getD default)
+def ExcludedSyntaxNodeKind.contains (exc : ExcludedSyntaxNodeKind) (ks : Array SyntaxNodeKind) :
+    Bool :=
+  let lastNodes := if let some n := exc.depth then ks.drop (ks.size - n) else ks
+  !(lastNodes.filter exc.kinds.contains).isEmpty
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Linter/Whitespace.lean]:
```suggestion
  lastNodes.any exc.kinds.contains
```

File: Mathlib/Tactic/Linter/Whitespace.lean (hunk 22 above)
Comment (grunweg) [reply Mathlib/Tactic/Linter/Whitespace.lean]: Good point; done (also for superscripts).

**Comment by grunweg** [comment]
Let me retry; the linter step is failing spuriously again...

**Comment by grunweg** [comment]
!bench

File: Mathlib/Tactic/Linter/Whitespace.lean [hunk 25]
```diff
@@ -51,325 +62,578 @@ public register_option linter.style.commandStart : Bool := {
...
+      return some (⟨orig.startPos, orig.next orig.startPos⟩, "add space in the source", "")
+    let origWsNext := origWs.drop 1
+    let pastSpaces := origWs.dropWhile (· == ' ')
+    if (origWs.take 1).toString == " " && (pastSpaces.take 1).toString == "\n" then
+      return some (⟨origWs.startPos, pastSpaces.stopPos⟩, "Please remove spaces before line breaks", "")
+    else
+      if (origWs.take 1).toString != "\n" && (!origWsNext.isEmpty) then
+        return some (⟨origWsNext.startPos, origWsNext.stopPos⟩, "remove space in the source", "")
+  -- The next pp-character is not a space
+  if !ppNext.trim.isEmpty then
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Linter/Whitespace.lean]: This is immediately after an `if ppNext.trim.isEmpty then`
```suggestion
  else
```

File: Mathlib/Tactic/Linter/Whitespace.lean [hunk 26]
```diff
@@ -51,325 +62,580 @@ public register_option linter.style.commandStart : Bool := {
...
+  -- If a command does not start on the first column, emit a warning.
+  let orig := stx.getSubstring?.getD default
+
+  let stxNoSpaces := stx.eraseLeadTrailSpaces
+  if let some pretty := ← Mathlib.Linter.pretty stxNoSpaces then
+    let pp := pretty.toRawSubstring
+    let (_, corr) ← generateCorrespondence true ∅ #[] stx pp
+    let (reported, excluded) := corr.partition fun _ {kinds := ks,..} =>
+      (!totalExclusions.contains ks && !ignoreSpaceAfter.contains ks && !ignoreSpaceAfter3.contains ks)
+    let fm ← getFileMap
```
Comment (SnirBroshi) [inline Mathlib/Tactic/Linter/Whitespace.lean]: This isn't used
```suggestion
```
